US05591862
According to the method described for Reference Example 35, 4-[3-(5-methyl-2-phenyl-4-oxazolyl)propoxy]benzaldehyde was allowed to react with diethyl cyanomethylphosphonate to give 4-[3-(5-methyl-2-phenyl-4-oxazolyl)propoxy]cinnamonitrile. Recrystallization from ethyl acetate--isopropyl ether--hexane gave colorless prisms, m.p.97°-98° C.

reactant | 4-[3-(5-methyl-2-phenyl-4-oxazolyl)propoxy]benzaldehyde | CC1=C(N=C(O1)C1=CC=CC=C1)CCCOC1=CC=C(C=O)C=C1 | C20H19NO3
reactant | diethyl cyanomethylphosphonate | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
product | 4-[3-(5-methyl-2-phenyl-4-oxazolyl)propoxy]cinnamonitrile | CC1=C(N=C(O1)C1=CC=CC=C1)CCCOC1=CC=C(C=CC#N)C=C1 | C22H20N2O2
